US07893186B2
CF3(CF2)3SO2N(Me)CH2CH2I was made as follows: CF3(CF2)3SO2N(Me)CH2CH2OH was reacted with an excess of thionyl chloride in methylene chloride at 25-45° C. to give CF3(CF2)3SO2N(Me)CH2CH2Cl, which (7.1 g) was mixed with a solution of 6.0 g NaI in acetone. The resulting solution was stirred at reflux, and the conversion to CF3(CF2)3SO2N(Me)CH2CH2I was followed by GC. At 24 hours, conversion was 14 percent, and 6.0 g more NaI was added; at 3 days, conversion was 46 percent; at 6 days, conversion was 72 percent, and 6.0 g NaI was added; at 13 days, 96 percent conversion was achieved. The resulting product was precipitated with water and recrystallized from hexane to provide 6.2 g white plates with a m.p. of 80-82° C. FO2S(CF2)2O(CF2)2I was obtained from Sigma-Aldrich Chemical Company, St. Louis, Mo. C3F6O(isoC3F3O)5CF(CF3) can be prepared essentially as described by Chen et. al. in J Fluorine Chem. 65, 59 (1993). I(CF2)4I was obtained from Sigma-Aldrich Chemical Company, St. Louis, Mo. CF3(CF2)7Br was obtained from 3M Company, St. Paul, Minn., and is available from Sigma-Aldrich Chemical Company, St. Louis, Mo. Sodium acetate was obtained from Sigma-Aldrich Chemical Company, St. Louis, Mo. Dimethylsulfoxide (DMSO) was obtained from Alfa Aesar, Ward Hill, Mass. Tetrahydrofuran (THF) was obtained from EMD Chemicals, Inc., Gibbstown, N.J. p-Toluenesulfonic acid was obtained from J. T. Baker, Phillipsburg, N.J. NaHCO3 was obtained from EMD Chemicals, Inc., Gibbstown, N.J.

reactant | CF3(CF2)3SO2N(Me)CH2CH2I | C(F)(F)(F)C(F)(F)C(F)(F)C(F)(F)S(=O)(=O)N(C)CCI | C7H7F9INO2S
reactant | CF3(CF2)3SO2N(Me)CH2CH2OH | C(F)(F)(F)C(F)(F)C(F)(F)C(F)(F)S(=O)(=O)N(C)CCO | C7H8F9NO3S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | CF3(CF2)3SO2N(Me)CH2CH2Cl | C(F)(F)(F)C(F)(F)C(F)(F)C(F)(F)S(=O)(=O)N(C)CCCl | C7H7ClF9NO2S
